US06410540B1
Preparation of 4-benzylpiperidin-1-yl benzene carboxamide (1-benzoyl-4-benzyl piperidine)
To a mixture of 4-benzylpiperidine (0.263 g, 1.5 mM) and diisopropylethyl-amine (0.53 mL, 3.0 mM) in 10 mL dichloromethane at room temperature was added benzoyl chloride (0.281 g, 2.0 mM) and the reaction mixture was stirred at room temperature for 20 h. The reaction mixture was poured into water and extracted with ethyl acetate (2×25 mL). The combined organic extract was washed with 1 N HCl, water and brine. The extract was dried over Na2SO4 and evaporated. The residue was chromatographed on a column of silica gel with ethyl acetate-hexane (10 to 50%, gradient). Evaporation of the desired fractions gave 0.402 g (96%) of the title compound as an oil. 1H NMR (CDCl3): δ 7.10-7.40 (m, 10H), 4.60-4.70 (m, 1H), 3.70-3.80 (m, 1H), 2.80-2.90 (m, 1H), 2.70-2.80 (m, 1H), 2.60 (d, 2H), 1.70-1.80 (m, 1H), 1.50-1.70 (m, 2H), 1.20-1.40 (m, 2H). MS (ESI) m/e 279 (M+).

reactant | 4-benzylpiperidine | 1.5 mM, 0.263 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | diisopropylethyl-amine | 3.0 mM, 0.53 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoyl chloride | 2.0 mM, 0.281 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-benzylpiperidin-1-yl benzene carboxamide | 0.402 g, 96% | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C=CC=C1)C(=O)N | C19H22N2O
